US07192982B2
2-(Biphenyl-4-yloxy)-ethanol
To a solution of (Biphenyl-4-yloxy)-acetic acid ethyl ester (0.63 g, 2.46 mmol) in dry toluene (15 mL) at −78° C. was added DIBAL-H 1M in toluene (4.92 mL, 4.92 mmol). The solution was stirred at −78° C. for 1 hour, warmed to room temperature and quenched with mixture of a solution of sodium tartrate in water and ethyl acetate for 1 hour. The layers were separated and the aqueous phase further extracted with ethyl acetate. The combined organic layers were dried (MgSO4), concentrated under vacuum and the residue purified bu column chromatography (silica gel, hexanes/Ethyl acetate 4:1, Rf0.1), 48%. 1H-NMR (CDCl3, 200.15 MHz): 7.58–7.26 (m, 8H); 7.00 (d, 2H, J=8.6), 4.14 (t, 2H, J=4.6), 4.02–3.98 (m, 2H); 2.04 (t, 1H, J=5.4).

reactant | (Biphenyl-4-yloxy)-acetic acid ethyl ester | 2.46 mmol, 0.63 g | C(C)OC(COC1=CC=C(C=C1)C1=CC=CC=C1)=O | C16H16O3
reactant | DIBAL-H | 1M | CC(C)C[AlH]CC(C)C
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.92 mmol, 4.92 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Biphenyl-4-yloxy)-ethanol | C1(=CC=C(C=C1)OCCO)C1=CC=CC=C1 | C14H14O2
